US05750531
Step 2: 5-Methyl-2-(2-methyl-4-fluorophenylamino)-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-6-ethylpyrimidine hydrochloride
After 4-fluoro-2-methylaniline(0.51 ml, 4.59 mmol) was added to a mixture solution of 5-methyl-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-6-ethyl-2-chloropyrimidine(0.74 g, 2.4 mmol) and dimethylformamide(5 ml), 0.15 g of the titled compound was obtained in accordance with the same procedure as in Step 2 of Example 1.

reactant | 4-fluoro-2-methylaniline | 4.59 mmol, 0.51 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 5-methyl-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-6-ethyl-2-chloropyrimidine | 2.4 mmol, 0.74 g | CC=1C(=NC(=NC1CC)Cl)N1C(C2=C(CC1)C=CS2)C | C15H18ClN3S
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 5-Methyl-2-(2-methyl-4-fluorophenylamino)-4-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-6-ethylpyrimidine hydrochloride | 0.15 g, Yield: 14.4% | Cl.CC=1C(=NC(=NC1CC)NC1=C(C=C(C=C1)F)C)N1C(C2=C(CC1)C=CS2)C | InChI=1S/C22H25FN4S.ClH/c1-5-18-14(3)21(27-10-8-16-9-11-28-20(16)15(27)4)26-22(24-18)25-19-7-6-17(23)12-13(19)2;/h6-7,9,11-12,15H,5,8,10H2,1-4H3,(H,24,25,26);1H
